US07915250B2
A solution of oxalyl chloride (545 μL, 6.36 mmol) in dichloromethane (25 mL) was cooled to −78° C. While maintaining an internal temperature of −78° C., the dropwise addition of DMSO (903 μL, 12.7 mmol) followed by 1,1-dimethylethyl 3-hydroxyazetidine-1-carboxylate (1 g, 5.78 mmol in 30 mL of dichloromethane) and finally triethylamine (3.25 mL, 23.1 mmol in 20 mL of dichloromethane) was performed. The mixture was allowed to warm to room temperature and was stirred for 15 hours. The reaction mixture was diluted with water and partitioned and the organic portion was washed twice with water. The combined aqueous portion was extracted once with dichloromethane. The combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil which was purified by column chromatography. Eluting with 30% ethyl acetate in hexanes, isolated product was concentrated in vacuo to afford 893 mg, 5.20 mmol (90%) of 1,1-dimethylethyl 3-oxoazetidine-1-carboxylate as a colorless oil, which solidified upon standing. 1H NMR (400 MHz, DMSO): 4.67 (s, 4H), 1.42 (s, 9H). GC/MS for C8H13NO3: 171.

reactant | oxalyl chloride | 6.36 mmol, 545 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 12.7 mmol, 903 μL | CS(=O)C | C2H6OS
reactant | 1,1-dimethylethyl 3-hydroxyazetidine-1-carboxylate | 5.78 mmol, 30 mL, 1 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | triethylamine | 23.1 mmol, 3.25 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1,1-dimethylethyl 3-oxoazetidine-1-carboxylate | 5.20 mmol, 893 mg, 90% | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
